US07767690B2
f) 4(S)-[4-(3(R,S)-Methoxycarbonylamino-3,4-dihydro-2H-quinolin-1-yl)-2,2-dimethyl-4-oxo-butyl]-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester
8.88 ml of triethylamine are added to a solution of 6.67 g of 4(S)-(3-carboxy-2,2-dimethyl-propyl)-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester in 200 ml of methylene chloride under argon. The mixture is cooled to 15° C. and 5.54 g of bis(2-oxo-3-oxazolidinyl)phosphinic chloride are added. The mixture is stirred at room temperature for 2 hours. A solution of 4.36 g of (1,2,3,4-tetrahydro-quinolin-3(R,S)-yl)-carbamic acid methyl ester [177202-73-2] in 100 ml of methylene chloride is added, followed by addition of 2.11 g of 4-N,N-dimethylaminopyridine. The reaction mixture is stirred at room temperature for 17 hours. The mixture is poured into 1M NaOH and extracted with tert-butyl methyl ether (2×). The combined organic layers are washed with water and brine, dried over sodium sulphate, filtered and concentrated. The title compound is obtained as a slightly yellow oil from the residue by means of flash chromatography (SiO2 60 F). Rf=0.39 (1:3 EtOAc-heptane); Rt=5.03 (gradient I).

reactant | 4(S)-(3-carboxy-2,2-dimethyl-propyl)-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester | 6.67 g | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1CC(CC(=O)O)(C)C)(C)C | C16H29NO5
reactant | bis(2-oxo-3-oxazolidinyl)phosphinic chloride | 5.54 g | O=C1OCCN1P(=O)(N1C(OCC1)=O)Cl | C6H8ClN2O5P
reactant | (1,2,3,4-tetrahydro-quinolin-3(R,S)-yl)-carbamic acid methyl ester | 4.36 g | COC(NC1CNC2=CC=CC=C2C1)=O | C11H14N2O2
reactant | NaOH | 1M | [OH-].[Na+]
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 8.88 ml | C(C)N(CC)CC | C6H15N
product | 4(S)-[4-(3(R,S)-Methoxycarbonylamino-3,4-dihydro-2H-quinolin-1-yl)-2,2-dimethyl-4-oxo-butyl]-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1CC(CC(=O)N1CC(CC2=CC=CC=C12)NC(=O)OC)(C)C)(C)C | C27H41N3O6
